US04010202
In a mixture of 200 volume parts of dry methanol and 200 volume parts of cyclohexanone is dissolved 10 parts of 2-amino-5,6-dimethoxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride and under nitrogen sparging and cooling at 0° C, there is added 9 parts of a molecular compound consisting of 1 mole lithium cyanoborohydride and 2 moles dioxane (LiBH3CN. 2C4H8O2). At a constant temperature of 5° C, the reaction mixture is stirred for 2 hours. After the addition of dilute hydrochloric acid, the methanol is distilled off. The remaining mixture is washed with benzene and evaporated to dryness under reduced pressure. The residue is dissolved in ethanol, treated with activated carbon and recrystallized from a mixture of ethanol and ethyl ether. The procedure yields 9.65 parts of 2-cyclohexylamino-5,6-dimethoxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride as colorless crystals melting at 180°-190° C (decomposition).

reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | 2-amino-5,6-dimethoxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride | Cl.NC1C(C2=CC=C(C(=C2CC1)OC)OC)=O
reactant | lithium cyanoborohydride | 1 mole | C(#N)[BH3-].[Li+]
reactant | dioxane | 2 moles | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-cyclohexylamino-5,6-dimethoxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride | Cl.C1(CCCCC1)NC1C(C2=CC=C(C(=C2CC1)OC)OC)=O | InChI=1S/C18H25NO3.ClH/c1-21-16-11-9-13-14(18(16)22-2)8-10-15(17(13)20)19-12-6-4-3-5-7-12;/h9,11-12,15,19H,3-8,10H2,1-2H3;1H
